US04550103
To a solution of 10.96 g (50 mmole) of 5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid in 150 ml of acetonitrile was added 9.73 g (60 mmole) of carbonyldiimidazole. The reaction was heated to 60° C. for one hour, cooled to room temperature and treated with 4.13 g (70 mmole) of n-propylamine. After stirring for two hours, the solvent was removed in vacuo and the residue partitioned between ether and water. The organic layer was washed with water, 1N hydrochloric acid, dried over magnesium sulfate, filtered, and evaporated invacuo to give 12.0 g of 5-oxo-1-(phenylmethyl)-N-propyl-3-pyrrolidinecarboxamide, mp 86°-87° C.

reactant | 5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid | 50 mmole, 10.96 g | O=C1CC(CN1CC1=CC=CC=C1)C(=O)O | C12H13NO3
reactant | carbonyldiimidazole | 60 mmole, 9.73 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | n-propylamine | 70 mmole, 4.13 g | C(CC)N | C3H9N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 5-oxo-1-(phenylmethyl)-N-propyl-3-pyrrolidinecarboxamide | 12.0 g | O=C1CC(CN1CC1=CC=CC=C1)C(=O)NCCC | C15H20N2O2
